US04112095
A 28 g. portion of 3-(m-nitrobenzyoly)butyronitrile [prepared as described in J. Org. Chem., Vol. 38, No. 23, 4044-4048 (1973)] is added to one liter of 6N hydrochloric acid and is stirred at reflux for one hour using a magnetic stirrer and a heating mantle. The reaction mixture is cooled and extracted with methylene chloride. The organic layer is separated and extracted with saturated sodium bicarbonate. The bicarbonate layer is added dropwise to a stirred cold hydrochloric acid solution and the resulting solid is kept cold in ice then is filtered and air dried to afford 27.24 g. of 3-m-nitrobenzoyl butyric acid as a white solid. The entire amount of the preceding compound is mixed with 12.8 ml of 99% hydrazine hydrate in 140 ml. of ethyl alcohol and is stirred at reflux for 3 hours. A solid beings to appear after about half an hour. The reaction mixture is cooled in an ice bath and the resulting solid is filtered and air dried to afford the compound 4,5-dihydro-5-methyl-6-(m-nitrophenyl)-3-(2H)-pyridazinone as white to light yellow crystals.

reactant | hydrochloric acid | 6N, one liter | Cl | ClH
reactant | 3-m-nitrobenzoyl butyric acid | [N+](=O)([O-])C=1C=C(C(=O)C(CC(=O)O)C)C=CC1 | C11H11NO5
reactant | hydrazine hydrate | 12.8 ml | O.NN
solvent | ethyl alcohol | C(C)O | C2H6O
product | 4,5-dihydro-5-methyl-6-(m-nitrophenyl)-3-(2H)-pyridazinone | CC1CC(NN=C1C1=CC(=CC=C1)[N+](=O)[O-])=O | C11H11N3O3
